US05811456
Example 15: Preparation of the compound (I-b3): Benzaldehyde (2-hydroxyethyl)(ethoxycarbonyl)hydrazone
This acylation is performed in the following manner: 1.08 g (10-2 moles) of ethyl chloroformate in 5 ml of anhydrous ethyl acetate are added dropwise to a solution containing 10-2 moles of benzaldehyde (2-hydroxyethyl)hydrazone and 0.79 g (10-2 moles) of anhydrous pyridine in 20 ml of anhydrous ethyl acetate, with stirring in the cold. The reaction mixture is left at 0° C. with stirring for 2 hours and then it is filtered. The product obtained is washed with 10 ml of water and then dried and recrystallized from a mixture of ethyl acetate and petroleum ether. It has a melting point of 69.5° C. The reaction yield is 62%.

reactant | ethyl chloroformate | 10-2 moles, 1.08 g | ClC(=O)OCC | C3H5ClO2
reactant | benzaldehyde (2-hydroxyethyl)hydrazone | 10-2 moles | OCCNN=CC1=CC=CC=C1 | C9H12N2O
reactant | pyridine | 10-2 moles, 0.79 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Benzaldehyde (2-hydroxyethyl)(ethoxycarbonyl)hydrazone | OCCN(N=CC1=CC=CC=C1)C(=O)OCC | C12H16N2O3
